* NGSPICE file created from BUFX1.ext - technology: sky130A

.subckt nmos_top a_84_92# a_0_0# a_54_62# VSUBS
X0 a_84_92# a_54_62# a_0_0# VSUBS sky130_fd_pr__nfet_01v8 ad=0.0597 pd=0.555 as=0.39 ps=2.96 w=3.01 l=0.15
.ends

.subckt pmos2 a_88_n400# a_144_n461# a_174_n400# a_262_n400# w_52_n436#
X0 a_262_n400# a_144_n461# a_174_n400# w_52_n436# sky130_fd_pr__pfet_01v8 ad=0.54 pd=4.54 as=0.29 ps=2.29 w=2 l=0.15
X1 a_174_n400# a_144_n461# a_88_n400# w_52_n436# sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.29 as=0.56 ps=4.56 w=2 l=0.15
.ends

.subckt invx1_pcell a_34_482# a_155_381# a_206_1059# w_n87_786# pmos2_0/VSUBS
Xnmos_top_0 a_206_1059# pmos2_0/VSUBS a_155_381# pmos2_0/VSUBS nmos_top
Xpmos2_0 w_n87_786# a_155_381# a_206_1059# w_n87_786# w_n87_786# pmos2
.ends

.subckt bufx1 invx1_pcell_1/w_n87_786# invx1_pcell_0/a_155_381# invx1_pcell_1/a_206_1059#
+ VSUBS
Xinvx1_pcell_0 invx1_pcell_1/a_34_482# invx1_pcell_0/a_155_381# m1_315_501# invx1_pcell_1/w_n87_786#
+ VSUBS invx1_pcell
Xinvx1_pcell_1 invx1_pcell_1/a_34_482# m1_315_501# invx1_pcell_1/a_206_1059# invx1_pcell_1/w_n87_786#
+ VSUBS invx1_pcell
.ends

.subckt BUFX1 Y A VDD GND
Xbufx1_0 VDD A Y GND bufx1
.ends

